US05239083
4-{2-[3-(1-hexylindol-5-yl)isocrotonoylamino]phenoxy}butyric acid (Compound 7)
108 mg of compound 7 was obtained in a similar manner to those described in the Examples 1 and 2 using 580 mg of ethyl 4-(2-aminophenoxy)butyrate and 366 mg of 3-(1-hexylindol-5-yl)isocrotonic acid obtained according to the procedures described in the Reference Examples 1-4.

reactant | ethyl 4-(2-aminophenoxy)butyrate | 580 mg | NC1=C(OCCCC(=O)OCC)C=CC=C1 | C12H17NO3
reactant | 3-(1-hexylindol-5-yl)isocrotonic acid | 366 mg | C(CCCCC)N1C=CC2=CC(=CC=C12)/C(=C/C(=O)O)/C | C18H23NO2
product | 4-{2-[3-(1-hexylindol-5-yl)isocrotonoylamino]phenoxy}butyric acid | C(CCCCC)N1C=CC2=CC(=CC=C12)/C(=C/C(=O)NC1=C(OCCCC(=O)O)C=CC=C1)/C | C28H34N2O4
